US05910508
(h) Synthesis of (E,E,Z)-7-[3-(5-hydroxypentyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]-3-methyl-2,4,6-octatrienoic acid
A mixture of (E,E,Z)-7-{3-[5-(tert-butyldimethylsilyloxy)pentyloxy]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl}-3-methyl-2,4,6-octatrienoic acid (850 mg, 1.5 mmol) and a 1M solution in THF of tetrabutylammonium fluoride (TBAF) (3.1 ml) in THF (10 ml) was stirred at room temperature for 1 h and then treated with ethyl acetate and with water. After settling, the organic phase was separated and washed twice with water, dried over anhydrous magnesium sulfate and concentrated in a rotary evaporator under vacuum at 40° C.

reactant | (E,E,Z)-7-{3-[5-(tert-butyldimethylsilyloxy)pentyloxy]-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl}-3-methyl-2,4,6-octatrienoic acid | 1.5 mmol, 850 mg | [Si](C)(C)(C(C)(C)C)OCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)\C(=C/C=C/C(=C/C(=O)O)/C)\C | C34H54O4Si
reactant | tetrabutylammonium fluoride | 3.1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (E,E,Z)-7-[3-(5-hydroxypentyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]-3-methyl-2,4,6-octatrienoic acid | OCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)\C(=C/C=C/C(=C/C(=O)O)/C)\C | C28H40O4
